US05028604
A colorless oil of 3-{1-[(S)-(-)-1,2,3,4-tetrahydronaphthalen-2-ylacetyl]-L-prolyl}thiazolidine was prepared in the same manner as in Example 25, except that (S)-(-)-1,2,3,4-tetrahydronaphthalen-2-ylacetic acid and 3-L-prolylthiazolidine hydrochloride were used instead of 3-(indan-2-yl)propionic acid and 1-L-thioprolylpyrrolidine hydrochloride, respectively (yield: 63%).

reactant | (S)-(-)-1,2,3,4-tetrahydronaphthalen-2-ylacetic acid | C1[C@H](CCC2=CC=CC=C12)CC(=O)O | C12H14O2
reactant | 3-L-prolylthiazolidine hydrochloride | Cl.N1[C@H](C(=O)N2CSCC2)CCC1
reactant | 3-(indan-2-yl)propionic acid | C1C(CC2=CC=CC=C12)CCC(=O)O | C12H14O2
reactant | 1-L-thioprolylpyrrolidine hydrochloride | Cl.N1[C@H](C(=O)N2CCCC2)CSC1
product | 3-{1-[(S)-(-)-1,2,3,4-tetrahydronaphthalen-2-ylacetyl]-L-prolyl}thiazolidine | yield: 63% | C1[C@H](CCC2=CC=CC=C12)CC(=O)N1[C@H](C(=O)N2CSCC2)CCC1 | C20H26N2O2S
